US06627755B1
6-Fluoro-3-(2-methyl-pyridin-3-yl)-2-[(3-pyrrolidin-1-ylmethyl-phenylamino)-methyl]-3H-quinazolin-4-one
A mixture of 3-(2-methyl-pyridin-3-yl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde (0.158 g, 0.56 mmol), 3-pyrrolidin-1-ylmethylaniline (0.050 g, 0.28 mmol), and acetic acid (0.16 mL, 2.8 mmol) in dichloroethane (15 mL) was chilled to 0° C. and sodium triacetoxyborohydride (0.297 g, 1.4 mmol) was added. The reaction was stirred for 1 hour at 0° C. and then allowed to warm to ambient temperature and stirred for 16 hours. The reaction was quenched by addition of saturated aqueous bicarbonate and continued stirring for 30 minutes. The phases were separated and the aqueous layer was extracted with methylene chloride. The combined organic phase was washed with brine, dried over magnesium sulfate and concentrated. The residue was flash chromatographed on silica gel (35 g) with elution proceeding as follows: 10% methanol/0.5% ammonium hydroxide/chloroform (50 mL), nil; (75 mL), unweighed impurity; (50 mL), unweighed 3-(2-methyl-pyridin-3-yl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-methanol; (50 mL), unweighed mixed fraction; (100 mL), 0.031 g (25%) of 3-(2-methyl-pyridin-3-yl)-6-fluoro-2-[(3-pyrrolidin-1-ylmethyl-phenylamino)-methyl]-3H-quinazolin-4-one as a yellow foam which had: 1H NMR δ 8.72 (d, J=5 Hz, 1H), 7.92 (dd, J=3, 8 Hz, 1H), 7.82 (dd, J=5, 9 Hz, 1H), 7.58-7.52 (m, 2H), 7.39 (dd, J=5, 8 Hz, 1H), 7.08 (t, J=8 Hz, 1H), 6.67-6.64 (m, 2H), 6.37 (d, J=8 Hz, 1H), 5.10 (s, 1H), 3.90 (dd, J=4.5, 17 Hz, 1H), 3.70 (dd, J=5, 17 Hz, 1H), 3.56 (ABq, Δv1-3=21 Hz, J=12.5 Hz, 2H), 2.54 (s, 4H), 2.36 (s, 3H), 1.78 (s, 4H); APCI MS m/z=444 (P+1).

reactant | 3-(2-methyl-pyridin-3-yl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde | 0.56 mmol, 0.158 g | CC1=NC=CC=C1N1C(=NC2=CC=C(C=C2C1=O)F)C=O | C15H10FN3O2
reactant | 3-pyrrolidin-1-ylmethylaniline | 0.28 mmol, 0.050 g | N1(CCCC1)CC=1C=C(N)C=CC1 | C11H16N2
reactant | acetic acid | 2.8 mmol, 0.16 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.4 mmol, 0.297 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | 6-Fluoro-3-(2-methyl-pyridin-3-yl)-2-[(3-pyrrolidin-1-ylmethyl-phenylamino)-methyl]-3H-quinazolin-4-one | FC=1C=C2C(N(C(=NC2=CC1)CNC1=CC(=CC=C1)CN1CCCC1)C=1C(=NC=CC1)C)=O | C26H26FN5O
